datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([CH2:10][CH:11]=[N+:12]1[C:63]2=[C:64](C=CC=C2)[C:74]2=[C:73]1C=CC=C2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>COC1=CC=CC(OC)=C1[P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10](Cl)[S:61](C2=CC=C(Cl)C=C2)(=[O:62])=[O:72])[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.C[N+:12]1=[C:11]([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][C:20]([N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:43])=[O:52])[CH:72]=[CH:73]1 10=20;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>CC[O:33][C:31]([C:20]1([H:10])CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32].C[Sn:63](C)(C)[CH2:62][CH+:11][C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:10]=[CH:11]/[CH2:62][Si:63](C)(C)C.C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1>>C[CH:10]([CH+:11][CH2:62][Si:63](C)(C)C)[N:20]([N:21]=[C:22]([O-:23])[O:33]CC1=CC=CC=C1)[C:41](=[O:42])[O:43]CC1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2CC[C:63]3=[C:62]([C:11]2=[N+:12]2CCCC2)[CH:73]=[CH:74][CH:65]=[CH:64]3)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[O:72][C:11]([O-:12])=[N:10]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([N:10]5CC[O:72][C:11]5=[O:12])C1C2C43 10,11=10,20;12=11,12;20,21=21"
"C1=CC2=C(C=C1)[S:62][C:11]1=[N:10]CC[N:12]21.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(O)C[NH2:10].CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([NH2+:10]CC(C)O)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.[CH:10]1=[CH:11][CH:12]=[C:13]([B-:64]([F:65])([F:75])[F:85])[O:14]1>>C[N-:21]C1=CC=CC=C1.FC(F)(F)[S:20][CH:10]1[CH:11]=[CH:12][C:13]([B-:64]([F:65])([F:75])[F:85])=[O+:14]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
COC1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1>>COC1=CC=C(C[C:10]2([CH:20]([C:31]3=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]3)[C:41]3=[CH:42][C:43]4=[C:44](OCC4)[CH:43]=[CH:44]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20
